* source 004_ACANALNOTCHFILT
R_R1         IN N01085  27k TC=0,0 
V_V1         IN 0 DC 0Vdc AC 1Vac 
R_R3         N01085 OUT  27k TC=0,0 
C_C2         0 N01085  110n  TC=0,0 
C_C3         N01085 0  110n  TC=0,0 
C_C4         N01447 OUT  110n  TC=0,0 
C_C5         IN N01447  110n  TC=0,0 
R_R4         0 N01447  27k TC=0,0 
R_R5         0 N01447  27k TC=0,0 
