* source 012_CURRENTCONSUMMER
R_R1         0 N00515  13 TC=0,0 
X_U1         N00795 N00515 VCC 0 N00542 AD8541/AD
V_V1         VCC 0 3.3Vdc
V_V2         N00814 0 4
R_R2         N00814 N00503  0.5 TC=0,0 
V_V3         N04484 0 2Vdc
R_R3         N00795 N04484  1k TC=0,0 
Q_Q2         N00503 N06370 N00515 Q2SC3076 
R_R4         0 N01825  1k TC=0,0 
Q_Q3         N01795 N01821 N01825 Q2SC3076 
R_R5         N01795 VCC  1k TC=0,0 
X_U2         N02927 N01825 VCC 0 N01821 AD8541/AD
R_R6         N02927 N02881  1k TC=0,0 
V_V4         N02881 0 3.3Vdc
R_R7         N00795 0  3k TC=0,0 
R_R8         N06370 N00542  100 TC=0,0 
