* source 005_EXACTIVENOTCHFILT
V_V1         VCC 0 12Vdc
V_V2         VSS 0 -12Vdc
C_C5         IN N04032  110n  TC=0,0 
R_R5         N03952 N04032  {Rvalue} TC=0,0 
V_V3         IN 0 DC 0Vdc AC 1Vac 
R_R3         N03860 N03882  {Rvalue} TC=0,0 
C_C4         N04032 N03882  110n  TC=0,0 
C_C2         N03952 N03860  110n  TC=0,0 
R_R1         IN N03860  {Rvalue} TC=0,0 
C_C3         N03860 N03952  110n  TC=0,0 
R_R4         N03952 N04032  {Rvalue} TC=0,0 
X_U1A         N03882 OUT VCC VSS OUT AD648A
X_U1B         N05718 N03952 VCC VSS N03952 AD648A
X_R6         OUT N05718 0 POT PARAMS: SET={ratio} VALUE=100k
.PARAM  rvalue=27k ratio=0.5
