* source 013_OPERATIONALAMPLIFIER
E_U1         N00925 0 VALUE {LIMIT(V(N00964,N00874)*1E6,-15V,+15V)}
V_V3         N00964 0 4Vdc
R_R3         N00925 N00874  10k TC=0,0 
R_R4         N00874 0  10k TC=0,0 
R_R5         N00964 N00964  20k TC=0,0 
R_R8         N01282 0  4k TC=0,0 
V_V4         N01266 0 3Vdc
R_R6         N01266 N01276  2k TC=0,0 
R_R9         N01266 N01296  5k TC=0,0 
R_R10         0 N01296  10k TC=0,0 
R_R7         N01276 N01282  8k TC=0,0 
E_U2         N01282 0 VALUE {LIMIT(V(N01296,N01276)*1E6,-15V,+15V)}
V_V5         N02576 0 1.2Vdc
R_R12         N02576 N02518  1k TC=0,0 
R_R11         N02518 N02528  4k TC=0,0 
E_U3         N02528 0 VALUE {LIMIT(V(N02644,N02518)*1E6,-15V,+15V)}
R_R14         0 N02644  4k TC=0,0 
R_R13         N02644 N02528  2k TC=0,0 
V_V6         N03726 0 1Vdc
R_R16         N03726 N03738  10k TC=0,0 
R_R18         0 N03762  50k TC=0,0 
E_U4         N03748 0 VALUE {LIMIT(V(N03762,N03738)*1E6,-15V,+15V)}
R_R17         N03762 N03748  100k TC=0,0 
R_R19         0 N03738  90k TC=0,0 
R_R20         0 N03748  10k TC=0,0 
R_R23         N05204 N05158  100k TC=0,0 
V_V7         N05130 0 0.9Vdc
E_U5         N05158 0 VALUE {LIMIT(V(N05204,N05130)*1E6,-15V,+15V)}
R_R25         0 N05204  50k TC=0,0 
E_U6         N06001 0 VALUE {LIMIT(V(0,N05985)*1E6,-15V,+15V)}
V_V8         N05973 0 1Vdc
R_R26         N05973 N05985  10k TC=0,0 
R_R31         N07206 N05985  20k TC=0,0 
V_V9         N07206 0 2Vdc
V_V10         0 N07213 3Vdc
R_R32         N07213 N05985  30k TC=0,0 
R_R33         N06001 N05985  30k TC=0,0 
E_U7         N08245 0 VALUE {LIMIT(V(N08232,N08245)*1E6,-15V,+15V)}
V_V11         N08232 0 1Vdc
R_R34         0 N08245  10k TC=0,0 
