* source 010_PWL_STIMULTEXTFILE
R_R1         0 0  1k TC=0,0 
R_R2         0 0  1k TC=0,0 
V_V2         OUT 0  AC 0
+SIN 0V 1V 1kHz 0 0 0
R_R3         0 OUT  1k TC=0,0 
