* source PARAMETRIC SWEEP
R_R1         N00097 N00110  47k TC=0,0 
R_R2         0 N00110  {rvariable} TC=0,0 
V_V1         N00097 0 10Vdc
.PARAM  rvariable=10k
