* source 005_NOTCHFILTEX2
V_V1         IN 0 DC 0Vdc AC 1Vac 
C_C3         N02565 0  110n  TC=0,0 
C_C5         IN N02739  110n  TC=0,0 
R_R4         0 N02739  {rvalue} TC=0,0 
C_C2         0 N02565  110n  TC=0,0 
C_C4         N02739 OUT  110n  TC=0,0 
R_R3         N02565 OUT  {rvalue} TC=0,0 
R_R1         IN N02565  {rvalue} TC=0,0 
R_R5         0 N02739  {rvalue} TC=0,0 
.PARAM  rvalue=27k
